US07902385B2
Synthesis of 4-oxatricyclo[4.2.1.03,7]non-5-yl acetate
A mixture of 14 g of 4-oxatricyclo[4.2.1.03,7]nonan-5-ol, 12 g of pyridine and 14 g of acetic anhydride was heated at 50° C. for 5 hours. The reaction mixture was concentrated. The concentrate was purified by distillation, obtaining 16 g (yield 88%) of the target compound.

reactant | 4-oxatricyclo[4.2.1.03,7]nonan-5-ol | 14 g | C12CC3OC(C(C3C1)C2)O | C8H12O2
reactant | acetic anhydride | 14 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 12 g | N1=CC=CC=C1 | C5H5N
product | 4-oxatricyclo[4.2.1.03,7]non-5-yl acetate | 16 g, yield 88% | C(C)(=O)OC1OC2CC3CC2C1C3 | C10H14O3
